US09193692B2
B. 1-Isopropyl-7-(2-methyl-6-(4-(tetrahydro-2H-pyran-2-yl)-4H-1,2,4-triazol-3-yl)pyridin-3-yl)-3,4-dihydropyrazino[2,3-b]pyrazin-2(1H)-one
To a flask was added 3-Bromo-2-methyl-6-(1-(tetrahydro-2H-pyran-2-yl)-1H-1,2,4-triazol-3-yl)pyridine (0.446 g, 1.380 mmol), 1-isopropyl-7-(trimethylstannyl)-3,4-dihydropyrazino[2,3-b]pyrazin-2(1H)-one (0.490 g, 1.380 mmol), tris(dibenzylideneacetone)dipalladium(0) (0.139 g, 0.152 mmol), tri-o-tolylphosphine (0.092 g, 0.304 mmol), triethylamine (0.577 mL, 4.14 mmol) and N,N-dimethylformamide (3 mL). Nitrogen gas was bubbled through the reaction mixture for 5 min and the mixture was heated to 100° C. for 1 h. After cooling to rt, the reaction mixture was filtered through Celite, rinsed with methanol and concentrated to dryness. The resulting residue was purified by silica gel flash column chromatography (0-80% ethyl acetate in hexanes, followed by 0-10% methanol in dichloromethane) to yield the desired product (0.40 g, 0.921 mmol, 66.7% yield). MS (ESI) m/z 435.5 [M+1]+.

reactant | 3-Bromo-2-methyl-6-(1-(tetrahydro-2H-pyran-2-yl)-1H-1,2,4-triazol-3-yl)pyridine | 1.380 mmol, 0.446 g | BrC=1C(=NC(=CC1)C1=NN(C=N1)C1OCCCC1)C | C13H15BrN4O
reactant | 1-isopropyl-7-(trimethylstannyl)-3,4-dihydropyrazino[2,3-b]pyrazin-2(1H)-one | 1.380 mmol, 0.490 g | C(C)(C)N1C(CNC=2C1=NC(=CN2)[Sn](C)(C)C)=O
reactant | tri-o-tolylphosphine | 0.304 mmol, 0.092 g | C1(=C(C=CC=C1)P(C1=C(C=CC=C1)C)C1=C(C=CC=C1)C)C | C21H21P
reactant | triethylamine | 4.14 mmol, 0.577 mL | C(C)N(CC)CC | C6H15N
reactant | N,N-dimethylformamide | 3 mL | CN(C=O)C | C3H7NO
catalyst | tris(dibenzylideneacetone)dipalladium(0) | 0.152 mmol, 0.139 g | C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.[Pd].[Pd]
product | 1-Isopropyl-7-(2-methyl-6-(4-(tetrahydro-2H-pyran-2-yl)-4H-1,2,4-triazol-3-yl)pyridin-3-yl)-3,4-dihydropyrazino[2,3-b]pyrazin-2(1H)-one | 0.921 mmol, 0.40 g, 66.7% yield | C(C)(C)N1C(CNC=2C1=NC(=CN2)C=2C(=NC(=CC2)C2=NN=CN2C2OCCCC2)C)=O | C22H26N8O2
